US04204068
Diethyl acetamidomalonate (2.60 g) and ethyl 3-(chloromethyl)phenoxyacetate (Robertson, J. Chem. Soc. (1933), 492; U.S. Pat. No. 3,933,895) (2.39 g) were dissolved in ethanolic ethoxide (prepared from sodium (230 mg) and absolute ethanol (10 ml)) and the mixture refluxed for 19 hours. The cooled solution was poured into ice-water, the product was extracted into ether, and the dried extract evaporated. The residual gum was crystallised from ether/hexane to give diethyl acetamido-(3-ethoxycarbonylmethoxyphenyl)malonate as white prisms, m.p. 98.5°-101.5°. This derivative (1.90 g) was refluxed with 10% aqueous hydrochloric acid (25 ml) for 31/2 hours and the cooled solution was evaporated to dryness in vacuo. The residual white solid was dissolved in the minimum quantity of absolute ethanol and added dropwise to a stirred, cooled (-10° C.) mixture of absolute ethanol (15 ml) and thionyl chloride (1.64 g). The resulting solution was set aside at room temperature for 18 hours, refluxed for 1 hour, cooled, and poured into ice-water, adjusting the pH to 9-10 with aqueous sodium hydroxide. The mixture was extracted with ether, and the dried extract was concentrated, giving ethyl 2-amino-3-(3-ethoxycarbonylmethoxyphenyl)propionate as a colourless oil, which was used without further purification in Examples 20 and 21.

reactant | Diethyl acetamidomalonate | 2.60 g | C(C)(=O)NC(C(=O)OCC)C(=O)OCC | C9H15NO5
reactant | ethyl 3-(chloromethyl)phenoxyacetate | ClCC=1C=C(OCC(=O)OCC)C=CC1 | C11H13ClO3
solvent | ethoxide | 10 ml, 230 mg | [O-]CC
product | diethyl acetamido-(3-ethoxycarbonylmethoxyphenyl)malonate | C(C)(=O)NC(C(=O)OCC)(C(=O)OCC)C1=CC(=CC=C1)OCC(=O)OCC | C19H25NO8
